US05565472
3-Amino-6-chloro-4-(2-chlorophenyl)-1,2-dihydro-1-methyl-2-oxoquinoline
A mixture of 6-chloro-4-(2-chlorophenyl)-1,2-dihydro-1-methyl-3-(4-nitrobenzyloxycarbonylamino)-2-oxoquinoline (1.9 g, 3.8 mmol) and Raney nickel (1.9 g, 50% slurry in water) in 75 ml dioxane and 75 ml methanol was shaken under hydrogen (50 psi) in a Parr hydrogenation apparatus for 3 h. The catalyst was filtered and the filtrate was concentrated to dryness in vacuo. The residue was dissolved in 100 ml ethyl acetate and the solution was washed with 60 ml brine. The ethyl acetate solution was then dried (sodium sulfate) and concentrated in vacuo to a solid (1.2 g) which was purified by column chromatography on silica gel (150 g), eluting with 7:3 hexane/ethyl acetate to yield the title compound as an off-white solid (950 mg, 79% yield).

reactant | 6-chloro-4-(2-chlorophenyl)-1,2-dihydro-1-methyl-3-(4-nitrobenzyloxycarbonylamino)-2-oxoquinoline | 3.8 mmol, 1.9 g | ClC=1C=C2C(=C(C(N(C2=CC1)C)=O)NC(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])C1=C(C=CC=C1)Cl | C24H17Cl2N3O5
catalyst | Raney nickel | 1.9 g | [Ni] | Ni
solvent | dioxane | 75 ml | O1CCOCC1 | C4H8O2
solvent | methanol | 75 ml | CO | CH4O
product | 3-Amino-6-chloro-4-(2-chlorophenyl)-1,2-dihydro-1-methyl-2-oxoquinoline | 950 mg, 79% yield | NC=1C(N(C2=CC=C(C=C2C1C1=C(C=CC=C1)Cl)Cl)C)=O | C16H12Cl2N2O
